US07399865B2
3-Chloro-4-(2-pyridylmethoxy)nitrobenzene
A mixture of 160 g of potassium hydroxide and 2-pyridylcarbinol in 8 L acetonitrile was stirred for 20-30 minutes. To this was added 400 g of 3-chloro-4-fluoronitrobenzene and the mixture was stirred at 40° C. for a minimum of 18 hours until the reaction was complete. Water was added and the precipitated yellow solids were filtered and washed with water. The product was dried (40-50° C., 10 mm Hg, 24 h) to the product in 85-95% yield.

reactant | potassium hydroxide | 160 g | [OH-].[K+]
reactant | 2-pyridylcarbinol | N1=C(C=CC=C1)CO | C6H7NO
reactant | 3-chloro-4-fluoronitrobenzene | 400 g | ClC=1C=C(C=CC1F)[N+](=O)[O-] | C6H3ClFNO2
reactant | Water | O | H2O
solvent | acetonitrile | 8 L | C(C)#N | C2H3N
product | 3-Chloro-4-(2-pyridylmethoxy)nitrobenzene | 85-95% yield | ClC=1C=C(C=CC1OCC1=NC=CC=C1)[N+](=O)[O-] | C12H9ClN2O3
